US05366987
(a) β-cyano-N-(2,4,6-trimethoxyphenyl)benzene propanamide
To a dichloromethane (150 mL) solution of 3-cyano-3-phenylpropionic acid (5 g, 0.0286 mol) at 0° C. under a nitrogen atmosphere was added triethylamine (4 mL, 0.0286 mol) and 2,4,6-trimethoxyaniline.HCl (6.3 g, 0.0286 mol). To this solution was added DCC (6.2 g, 0.29 mol). The resulting mixture was allowed to warm to room temperature over 3 hours. This was then filtered and the filtrate partitioned between 1N HCl and dichloromethane. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The resulting solid (5.1 g) was recrystallized from dichloromethane/hexanes, mpt 157°-160° C.

reactant | 3-cyano-3-phenylpropionic acid | 0.0286 mol, 5 g | C(#N)C(CC(=O)O)C1=CC=CC=C1 | C10H9NO2
reactant | triethylamine | 0.0286 mol, 4 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethoxyaniline | COC1=C(N)C(=CC(=C1)OC)OC | C9H13NO3
reactant | HCl | 0.0286 mol, 6.3 g | Cl | ClH
reactant | DCC | 0.29 mol, 6.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | β-cyano-N-(2,4,6-trimethoxyphenyl)benzene propanamide | C(#N)C(CC(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C19H20N2O4
